US05807859
The process is performed as in Example 50 for the preparation of ethyl 5-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)-valerate but starting with 1.42 g of 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 75 ml of dimethylformamide, 1 g of sodium hydride, 0.84 ml of trimethylsilyl chloride and 0.76 ml of 4-bromo-butyronitrile. The product is first purified by crystallization from acetonitrile, then by heating of the crystals to reflux in an ethyl acetate/methanol mixture (9/1 by volume). After allowing to stand for 2 hours at a temperature in the region of 20° C., the suspension is filtered and the solid is washed with ethyl acetate and dried at 60° C. under vacuum (1 mmHg; 0.13 kPa). 0.83 g of 4-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)-butyronitrile is obtained in the form of an off-white solid melting above 260° C. (Analysis, % calculated C: 71.04, H: 5.30, N: 18.41, O: 5.26, % found C: 70.7, H: 5.5, N: 18.6).

reactant | ethyl 5-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)-valerate | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCCC(=O)OCC | C21H23N3O3
reactant | 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1.42 g | CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H11N3O
reactant | sodium hydride | 1 g | [H-].[Na+]
reactant | trimethylsilyl chloride | 0.84 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 4-bromo-butyronitrile | 0.76 ml | BrCCCC#N | C4H6BrN
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 4-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)-butyronitrile | 0.83 g | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCC#N | C18H16N4O
